US08211919B2
To a solution of N-(4-bromophenyl)-D-phenylalaninamide (500 mg) in N,N-dimethylformamide (5 mL) were added 1,1′-oxybis(2-bromoethane) (545 mg) and diisopropylethylamine (607 mg) and the mixture was stirred at 50° C. for 6 hours. After being cooled to 5° C., the mixture was poured into water and extracted with ethyl acetate. The organic layer was washed with water and brine, dried over magnesium sulfate, and evaporated in vacuo. The residue was purified by column chromatography on silica gel eluting with hexane/ethyl acetate (1:1) to afford (2R)—N-(4-bromophenyl)-2-morpholin-4-yl-3-phenylpropanamide (430 mg) as a powder.

reactant | N-(4-bromophenyl)-D-phenylalaninamide | 500 mg | BrC1=CC=C(C=C1)NC([C@H](N)CC1=CC=CC=C1)=O | C15H15BrN2O
reactant | 1,1′-oxybis(2-bromoethane) | 545 mg | O(CCBr)CCBr | C4H8Br2O
reactant | diisopropylethylamine | 607 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | (2R)—N-(4-bromophenyl)-2-morpholin-4-yl-3-phenylpropanamide | 430 mg | BrC1=CC=C(C=C1)NC([C@@H](CC1=CC=CC=C1)N1CCOCC1)=O | C19H21BrN2O2
